US09315494B2
A slurry of 1-(2-hydroxy-3-nitrophenyl)ethanone (1.00 g, 5.52 mmol) and potassium carbonate (3.05 g, 22.08 mmol) in DMF (20 mL) was stirred at room temperature for 30 minutes, then iodomethane (1.338 mL, 16.56 mmol) was added dropwise and the resulting mixture was allowed to stir at room temperature overnight. LCMS indicated some un-reacted starting material remained, therefore additional iodomethane (1.338 mL, 16.56 mmol) was added and the mixture was warmed to 50° C. over 2 days. Reaction was quenched by the addition of water to give a solution followed by adjusting the pH with 1N HCl to ˜7. The resulting solution was extracted with ethyl acetate (80 mL×3) and the combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to afford the product, 1-(2-methoxy-3-nitrophenyl)ethanone (1.05 g, 5.38 mmol, 97% yield) as a tan oil. HPLC (Method N) RT=1.86 minutes.

reactant | 1-(2-hydroxy-3-nitrophenyl)ethanone | 5.52 mmol, 1.00 g | OC1=C(C=CC=C1[N+](=O)[O-])C(C)=O | C8H7NO4
reactant | potassium carbonate | 22.08 mmol, 3.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 16.56 mmol, 1.338 mL | IC | CH3I
reactant | iodomethane | 16.56 mmol, 1.338 mL | IC | CH3I
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(2-methoxy-3-nitrophenyl)ethanone | 5.38 mmol, 1.05 g, 97% yield | COC1=C(C=CC=C1[N+](=O)[O-])C(C)=O | C9H9NO4
